US08003811B2
Step D: (S)-5,6-di(nitrooxy)hexanoic acid
To a solution of (S)-tert-butyl 5,6-di(nitrooxy)hexanoate (12.41 g, 42.155 mmol) in DCM (47 mL) cooled to 0° C. under N2, boron trifluoride diethyl ether complex (5.82 mL, 46.37 mmol) was added. The reaction mixture was stirred at 0° C. for 10 minutes and at rt for 3 hrs. The solution was washed with brine, the organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure. The crude brown oil was used in the next step without further purification.

reactant | (S)-tert-butyl 5,6-di(nitrooxy)hexanoate | 42.155 mmol, 12.41 g | [N+](=O)([O-])O[C@@H](CCCC(=O)OC(C)(C)C)CO[N+](=O)[O-] | C10H18N2O8
solvent | DCM | 47 mL | C(Cl)Cl | CH2Cl2
product | (S)-5,6-di(nitrooxy)hexanoic acid | [N+](=O)([O-])O[C@@H](CCCC(=O)O)CO[N+](=O)[O-] | C6H10N2O8
